US05958944
A solution of methyl (R)-3-amino-4-(1-acetamidoethyl)benzoate (600 mg) in acetic acid (6 ml) was dropwise added to a solution of sodium nitrite (193 mg) in conc. sulfuric acid (2 ml) at room temperature, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was dropwise added to a solution of copper(I) chloride (550 mg) in conc. hydrochloric acid (6 ml) under ice-cooling, and the mixture was stirred at room temperature for 5 hours. After the reaction, the reaction mixture was poured into ice water, and extracted with chloroform. The extract was washed with water, dried, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform:methanol=30:1) to give 460 mg of methyl (R)-4-(1-acetamidoethyl)-3-chlorobenzoate.

reactant | methyl (R)-3-amino-4-(1-acetamidoethyl)benzoate | 600 mg | NC=1C=C(C(=O)OC)C=CC1[C@@H](C)NC(C)=O | C12H16N2O3
reactant | sodium nitrite | 193 mg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
catalyst | copper(I) chloride | 550 mg | [Cu]Cl
product | methyl (R)-4-(1-acetamidoethyl)-3-chlorobenzoate | 460 mg | C(C)(=O)N[C@H](C)C1=C(C=C(C(=O)OC)C=C1)Cl | C12H14ClNO3
